US06603008B1
1-[3-Chloro-4-(1,3-oxazol-2-yl)phenyl]-1-ethanone (Step 4).
To a stirred solution of 2-(4-bromo-2-chlorophenyl)-1,3-oxazole (2.88 g, 11.14 mmol) in 1,4-dioxane (70 mL) were added tributhyl(1-ethoxyvinyl)tin (4.5 mL, 13.37 mmol), LiCl (1.18 g, 27.85 mmol) and tetrakis(triphenylphosphine)palladium(0) (1.28 g, 1.11 mmol) at room temperature under nitrogen. The mixture was heated at reflux temperature for 4 hours, and cooled down to room temperature, the solvent was removed under reduced pressure and the residue was dissolved in ethyl acetate (50 mL), washed with water (20 mL), dried over MgSO4 and concentrated in vacuo. The residue was dissolved in THF (30 mL) then 2N HCl (30 ml) was added at room temperature. After 2 hours, saturated NaHCO3 (100 mL) was added to the mixture. The mixture was extracted with ethyl acetate (300 mL) dried over MgSO4. Removal of the solvent, gave an oily residue, which was purified by flash chromatography eluting with ethyl acetate/hexane (1/4) to give title compound (1.891 g, 77% yield).

reactant | 2-(4-bromo-2-chlorophenyl)-1,3-oxazole | 11.14 mmol, 2.88 g | BrC1=CC(=C(C=C1)C=1OC=CN1)Cl | C9H5BrClNO
reactant | LiCl | 27.85 mmol, 1.18 g | [Li+].[Cl-]
reactant | 1,4-dioxane | 70 mL | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 1.11 mmol, 1.28 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-[3-Chloro-4-(1,3-oxazol-2-yl)phenyl]-1-ethanone | 1.891 g, 77% yield | ClC=1C=C(C=CC1C=1OC=CN1)C(C)=O | C11H8ClNO2
